US06103750
To a suspension wherein 5-amino-1-(5-chloro-2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-6-yl)-3-cyanopyrazole (665 mg, 2.00 mmol), sodium trifluoromethanesulfinate (624 mg, 4.00 mmol) and dimethylamine tosylate (1.086 g, 5.00 mmol) are in toluene (5 ml), thionyl chloride (476 mg, 2.00 mmol) was added dropwise under ice cooling over a period of about 10 minutes and stirred at 50 to 60° C. for 10 minutes. After allowing time to cool, the reaction solution was poured into water, extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was subjected to silica gel column chromatography to give 200 mg of 5-amino-1-(5-chloro-2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-6-yl)-3-cyano-4-trifluoromethylsulfenylpyrazole.

reactant | 5-amino-1-(5-chloro-2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-6-yl)-3-cyanopyrazole | 2.00 mmol, 665 mg | NC1=CC(=NN1C1=CC2=C(C(C(O2)(F)F)(F)F)C=C1Cl)C#N | C12H5ClF4N4O
reactant | sodium trifluoromethanesulfinate | 4.00 mmol, 624 mg | FC(S(=O)[O-])(F)F.[Na+]
reactant | dimethylamine tosylate | 5.00 mmol, 1.086 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.CNC
reactant | thionyl chloride | 2.00 mmol, 476 mg | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-amino-1-(5-chloro-2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-6-yl)-3-cyano-4-trifluoromethylsulfenylpyrazole | 200 mg | NC1=C(C(=NN1C1=CC2=C(C(C(O2)(F)F)(F)F)C=C1Cl)C#N)SC(F)(F)F | C13H4ClF7N4OS
